US04277498
A mixture of aminoacetonitrile hydrochloride (9.25 g, 0.1 mol) and 2-methylheptan-2-ol (13.0 g, 0.1 mol) in acetic acid (60 ml) was treated with concentrated sulphuric acid (12 ml) with the temperature held at 25°-30° C. After stirring for 2 hours the mixture was pouredinto ice-water (300 ml) and washed with ether (2×200 ml). The aqueousphase was basified with 10 N sodium hydroxide solution, extracted with ether (3×200 ml) and the combined extracts were dried over magnesiumsulphate then evaporated to give 2-amino-N-(1,1-dimethylhexyl)acetamide.

reactant | aminoacetonitrile hydrochloride | 0.1 mol, 9.25 g | Cl.NCC#N
reactant | 2-methylheptan-2-ol | 0.1 mol, 13.0 g | CC(C)(CCCCC)O | C8H18O
reactant | sulphuric acid | 12 ml | S(O)(O)(=O)=O | H2O4S
solvent | acetic acid | 60 ml | C(C)(=O)O | C2H4O2
product | 2-amino-N-(1,1-dimethylhexyl)acetamide | NCC(=O)NC(CCCCC)(C)C | C10H22N2O
